US05183925
A solution of 12.2 g of salicylaldehyde in 20 ml of dimethylformamide is instilled into a suspension of 4.36 g of sodium hydride (55% dispersion in mineral oil) in 80 ml of dimethylformamide by stirring and ice cooling within 15 minutes. After 3 hours, a solution of 21.5 g of 4-bromobutyric acid ethyl ester in 16 ml of dimethylformamide is instilled by ice cooling within 15 minutes, and the mixture is stirred for 72 hours at room temperature. The batch is poured on ice/water, shaken with ether, the organic phase is washed briefly with 1 n sodium hydroxide solution, dried with sodium sulfate and concentrated by evaporation. The crude product is distilled at 130°-140° C./0.1 mbar in a bulb tube and 11.2 g of 4-(2-formylphenoxy)-butyric acid ethyl ester is thus obtained as a colorless oil.

reactant | salicylaldehyde | 12.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | sodium hydride | 4.36 g | [H-].[Na+]
reactant | 4-bromobutyric acid ethyl ester | 21.5 g | C(C)OC(CCCBr)=O | C6H11BrO2
reactant | ether | CCOCC | C4H10O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | 4-(2-formylphenoxy)-butyric acid ethyl ester | 11.2 g | C(C)OC(CCCOC1=C(C=CC=C1)C=O)=O | C13H16O4
